US05093370
2-Acetylamino-1,4-bis(4-dimethylaminobutyl)benzene
To 1 ml of acetic anhydride was added 0.58 g of 2-amino-1,4-bis(4-dimethylaminobutyl)benzene, and the solution was stirred at 50° C. for 2.5 hours. After adding 8 ml of 5% sodium carbonate, the mixture was stirred at a room temperature for 5 hours, alkalized with 10% sodium hydroxide, subjected to salting out and extracted with total 70 ml of chloroform. The extract was washed with a saturated sodium chloride aqueous solution, dried over potassium carbonate, and evaporated under a reduced pressure to obtain 0.56 g of the title compound as a pale brown crystal.

reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-amino-1,4-bis(4-dimethylaminobutyl)benzene | 0.58 g | NC1=C(C=CC(=C1)CCCCN(C)C)CCCCN(C)C | C18H33N3
reactant | sodium carbonate | 8 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-Acetylamino-1,4-bis(4-dimethylaminobutyl)benzene | 0.56 g | C(C)(=O)NC1=C(C=CC(=C1)CCCCN(C)C)CCCCN(C)C | C20H35N3O
